US05461050
To a stirred and cooled (ice-bath) mixture of 49 g of 1-methyl-1H-pyrrole-2-ethanol, 47.6 g of N,N-diethylethanamine and 500 ml of dichloromethane, there were added portionwise 34 ml of methanesulfonyl chloride. Stirring was continued overnight at room temperature. The reaction mixture was diluted with water and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated, yielding 85.5 g (100%)of 1-methyl-1H-pyrrole-2-ethanol methanesulfonate (ester) (interm. 3);

reactant | 1-methyl-1H-pyrrole-2-ethanol | 49 g | CN1C(=CC=C1)CCO | C7H11NO
reactant | N,N-diethylethanamine | 47.6 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 500 ml | ClCCl | CH2Cl2
reactant | methanesulfonyl chloride | 34 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | water | O | H2O
product | 1-methyl-1H-pyrrole-2-ethanol methanesulfonate | 85.5 g, 100% | CS(=O)(=O)OCCC=1N(C=CC1)C | C8H13NO3S
